US07427688B2
Synthesis of 2-phenylacetylamino-3,3-diphenylpropanoic acid
An aqueous solution (14 mL) of 2-amino-3,3-diphenylpropanoic acid hydrochloride (2.0 g, 7.2 mmol) was adjusted to pH 12 with 1M aqueous sodium hydroxide solution. Phenylacetyl chloride (1.05 mL, 7.9 mmol) was added dropwise at 0-10° C. while adjusting the mixture to pH 11-12 with 1M aqueous sodium hydroxide solution, and the mixture was stirred at room temperature for 4 hrs. Ethyl acetate (40 mL) was added to the reaction mixture, and the mixture was adjusted to pH 1.1 with concentrated hydrochloric acid and partitioned. The obtained organic layer was warmed to 50° C. and hexane (30 mL) was added. The mixture was cooled in an ice bath to allow solid precipitation. The solid was collected by filtration and dried to give the title compound (2.41 g).

reactant | 2-amino-3,3-diphenylpropanoic acid hydrochloride | 7.2 mmol, 14 mL, 2.0 g | Cl.NC(C(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | Phenylacetyl chloride | 7.9 mmol, 1.05 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | Ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 2-phenylacetylamino-3,3-diphenylpropanoic acid | 2.41 g | C1(=CC=CC=C1)CC(=O)NC(C(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H21NO3
